US08859504B2
Synthesis of 2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (I-21)
A mixture of N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide (0.305 g, 0.278 mmol) and D-malic acid (130.3 mg, 0.33 mmol) were mixed in acetone (3 mL). The mixture was heated to form a solution. The solution was cooled uncontrolled until the internal temperature was about 25° C. White solid precipitated out and the resultant slurry was agitated at ambient temperature for 3 h. The slurry was filtered to collect solid 2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (0.410 g, 100%). [M+H] calculated for C23H28BN4O7, 483.2051. found, 483.2.

reactant | N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide | 0.278 mmol, 0.305 g | O1B(OB(OB1[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C57H69B3N12O9
reactant | D-malic acid | 0.33 mmol, 130.3 mg | C([C@H](O)CC(=O)O)(=O)O | C4H6O5
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid | CC(C[C@H](NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)B1OC([C@H](O1)CC(=O)O)=O)C | C23H27BN4O7
